US09422240B2
To a solution of monobenzyl malonate (2.00 g) in N,N-dimethylformamide (51.5 mL), glycine tert-butyl hydrochloride (2.07 g), triethylamine (3.13 g) and propylphosphonic acid anhydride (cyclic trimer) (48%, solution in N,N-dimethylformamide, 8.22 g) were added and the mixture was stirred at room temperature for an hour. To the reaction mixture, water was added and extraction was conducted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate. The desiccant was removed by filtration and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=67:33-50:50) to give benzyl 3-({2-[(2-methyl-2-propanyl)oxy]-2-oxoethyl}amino)-3-oxopropanoate as a colorless oil (1.46 g).

reactant | monobenzyl malonate | 2.00 g | C(CC(=O)[O-])(=O)OCC1=CC=CC=C1
reactant | glycine tert-butyl hydrochloride | 2.07 g | C(C)(C)(C)Cl.NCC(=O)O
reactant | triethylamine | 3.13 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 51.5 mL | CN(C=O)C | C3H7NO
product | benzyl 3-({2-[(2-methyl-2-propanyl)oxy]-2-oxoethyl}amino)-3-oxopropanoate | 1.46 g | CC(C)(C)OC(CNC(CC(=O)OCC1=CC=CC=C1)=O)=O | C16H21NO5
